### PR TITLE
[Merged by Bors] - feat(MeasureTheory): mass of `count.real`

### PR DESCRIPTION
**Pull request by YaelDillies**
From MeanFourier

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/Count.lean [hunk 1]
```diff
@@ -18,6 +20,14 @@ and prove basic properties of this measure.
 
 @[expose] public section
 
+namespace ENNReal
+
+@[simp]
+lemma toReal_enatCard (α : Type*) [Finite α] : ENNReal.toReal (ENat.card α) = Nat.card α := by
+  simp [ENat.card_eq_coe_natCard]
+
+end ENNReal
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/Count.lean]: Where to move this? `#min_imports` says
```
public import Mathlib.Data.Real.ENatENNReal
public import Mathlib.SetTheory.Cardinal.NatCard
```
and neither file seems fit to import the other

File: Mathlib/MeasureTheory/Measure/Count.lean [hunk 2]
```diff
@@ -163,6 +173,12 @@ instance count.isFiniteMeasure [Finite α] :
 @[simp]
 lemma count_univ : count (univ : Set α) = ENat.card α := by simp [count_apply .univ, encard_univ]
 
+@[simp] lemma count_real_univ [Finite α] : count.real (.univ : Set α) = Nat.card α := by
```
Comment (plp127) [inline Mathlib/MeasureTheory/Measure/Count.lean]: Do we need `[Finite α]` for this? Since both `Nat.card` and `Measure.real` have the junk value `0`.

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Measure/Count.lean]: Nicely spotted

File: Mathlib/MeasureTheory/Measure/Count.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Measure/Count.lean]: As you prefer. I'd say `Mathlib.SetTheory.Cardinal.NatCard` because it's on `Nat.card`.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

**Comment by YaelDillies** [comment]
Thank you for the review!

bors merge

**Comment by YaelDillies** [comment]
bors merge
